US08404869B2
2-Allyloxy-1,4-benzoquinone (10 g, 61 mM) and Styrene (19.8 g, 183 mM) were dissolved in 100 ml of isopropanol and refluxed for 48 hours. The reaction solution was cooled to room temperature, was concentrated by distillation under reduced pressure. 100 ml of toluene added to concentrated solution and toluene was dissolved, and refluxed for 12 hours, and was then purified by chromatography on silica gel to give to 3.4 g (12.9 mM) of 2-Allyl-3-hydroxy-1,4-phenanthrenequinone.

reactant | 2-Allyloxy-1,4-benzoquinone | 61 mM, 10 g | C(C=C)OC=1C(C=CC(C1)=O)=O | C9H8O3
reactant | Styrene | 183 mM, 19.8 g | C=CC1=CC=CC=C1 | C8H8
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2-Allyl-3-hydroxy-1,4-phenanthrenequinone | 12.9 mM, 3.4 g | C(C=C)C=1C(C=2C=CC3=CC=CC=C3C2C(C1O)=O)=O | C17H12O3
